US05914339
5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(3-benzyloxy-propyl)ester
The title compound was prepared as a yellow gum from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and 3-benzyloxy-propanol according to the procedure of Example 1; yield: 38%; Rf =0.52 (9/1 CHCl3 /MeOH); 1H NMR (300 MHz, CDCl3): δ 1.32 (d, 3H), δ 2.00 (m, 4H), δ 2.75 (m, 1H), δ 3.30 (s, 2H), δ 3.50 (m, 4H), δ 4.40 (br m, 12H), δ 5.49 (s, 1H), δ 6.68-6.85 (m, 3H), δ 7.24-7.40 (m, 13H), δ 7.43 (s, 1H); MS (ES) m/z (relative intensity): 518 (M+ -HCl, 100).

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | 3-benzyloxy-propanol | C(C1=CC=CC=C1)OCCCO | C10H14O2
reactant | HCl | Cl | ClH
solvent | CHCl3 MeOH | C(Cl)(Cl)Cl.CO
product | 5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(3-benzyloxy-propyl)ester | yield: 38% | C(C1=CC=CC=C1)OCCCOC(=O)C1(OC2=C(O1)C=CC(=C2)C[C@@H](C)NC[C@H](O)C2=CC(=CC=C2)Cl)C(=O)OCCCOCC2=CC=CC=C2 | C40H44ClNO9
